US06603034B2
Preparation of Methyl 3-(N-Phenylamino)-3-phenylpropionate
At room temperature, a three-neck flask equipped with a reflux condenser, internal thermometer, dropping funnel and stirrer under nitrogen protective gas was initially charged with 7.6 g of zinc powder (116 mmol) in 45 ml of isopropyl acetate. After 1.83 ml of trimethylchlorosilane (14.4 mmol) had been added, the mixture was heated to 60° C. for 15 min, then allowed to cool to 55° C. and 16.3 g of undiluted methyl bromoacetate (107 mmol) were subsequently added dropwise within 5 min, and the temperature was maintained at 60° C. by external cooling. The mixture was then stirred at 50° C. for 15 min. After cooling to 5° C., 16.1 g of benzalaniline (89 mmol) dissolved in 10 ml of isopropyl acetate were added and the mixture was heated to 25° C. After the mixture had been stirred at 25° C. for 1 h, it was heated to 40° C. for a further 10 min and then cooled to 5° C. Hydrolysis was then effected using 80 ml of concentrated ammonia solution. After 40 ml of isopropyl acetate had been added, the mixture was heated to 50° C. and precipitate formed went into solution. At this temperature, excess zinc was filtered off and the organic phase removed. The organic phase was then washed at 50° C. with 20 ml of water. After the phase separation, the solvent was distilled off under reduced pressure to give a crude product in a yield of 19.7 g (87% of theory) and a purity of >95% (HPLC). After recrystallization from ethyl acetate, methyl 3-(N-phenylamino)-3-phenylpropionate having a melting point of 110° C. was obtained.

reactant | trimethylchlorosilane | 14.4 mmol, 1.83 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | methyl bromoacetate | 107 mmol, 16.3 g | BrCC(=O)OC | C3H5BrO2
reactant | benzalaniline | 89 mmol, 16.1 g | C(C1=CC=CC=C1)=NC1=CC=CC=C1 | C13H11N
reactant | ammonia | 80 ml | N | H3N
solvent | isopropyl acetate | 45 ml | C(C)(=O)OC(C)C | C5H10O2
solvent | isopropyl acetate | 10 ml | C(C)(=O)OC(C)C | C5H10O2
catalyst | zinc | 116 mmol, 7.6 g | [Zn] | Zn
solvent | isopropyl acetate | 40 ml | C(C)(=O)OC(C)C | C5H10O2
product | Methyl 3-(N-Phenylamino)-3-phenylpropionate | C1(=CC=CC=C1)NC(CC(=O)OC)C1=CC=CC=C1 | C16H17NO2
